Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I couldn't do this anymore."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient reports that since returning to school after ___ 
break in ___ of this year she has been having steadily 
worsening depressive symptoms despite multiple interventions. 
She states that shortly after getting back to ___ in ___ 
she saw a school counselor who helps connect her with a 
psychiatrist because she had been feeling more depressed. She 
met with a psychiatrist twice and was started on citalopram but 
despite this intervention her mood continued to worsen. 
Ultimately got to the point that she started to experience 
suicidal thoughts which culminated in her planning and 
ultimately attempting to hang herself. She states that 
approximately ___ weeks ago she first attempted to hang 
herself using a belt in her apartment, and that after doing this 
she reached out to her family letting them know that she was 
feeling depressed. Her mother and aunt came and stayed with her 
for about 1 week, but on ___ afternoon 3 days prior to 
presentation the patient was left alone one afternoon to study, 
and during that time she then again attempted to hang herself 
with a belt that she had fastened. She states that she 
strangulated to the point of nearly passing out, at which point 
she aborted the attempt. Was at the request of her psychiatrist 
that she come to the emergency room for evaluation after seeing 
him briefly today.
.
The patient reports that her depressive symptoms include 
severely depressed mood with a motivation, anhedonia, insomnia, 
isolation, poor appetite, poor concentration, and engaging less 
socially. She also reports intermittently experiencing suicidal 
ideation since ___ of this year, but without any specific 
plan, intent, or acts towards self-harm until 1.5 weeks ago. She 
denies any perceptual disturbances, paranoia, delusions, or 
symptoms consistent with mania. She denies any history of 
grandiosity, decreased need for sleep, racing thoughts, 
increased goal-directed behavior, or impulsivity. She does 
report feeling severely anxious from time to time, with anxious 
ruminations which are hopeless in nature and usually surrounding 
her school and future career. She also reports social anxiety 
often "over thinking" and feeling incredibly indecisive when in 
social situations."
.
Briefly, patient is a ___ female with past psychiatric 
history of depression who presents to the emergency room with 
complaints of worsening depression status post hanging attempt.
.
The patient reports that she began feeling extremely anxious, 
but not depressed, about two months before presentation. She 
felt that she was overthinking life, being more of a 
perfectionist, and was having a hard time socializing normally. 
She was less bubbly and social than usual and felt like other 
people started to notice something was different.
.
On ___, five weeks before presentation, the patient presented 
to the ___'s ED because she was having suicidal thoughts about 
hanging herself. At that time she did not endorse a plan or 
intent and was discharged. At that time she called her father 
and expressed that she wanted to stay in the hospital and not be 
discharged and he said, "If you leave that is the end of dental 
school." (The patient's father is not paying for dental school). 
The patient was started on Celexa 10 mg at about that time. 
Since she was discharged from the ___'s ED, the patient reports 
that she has been having suicidal thoughts continuously. She 
will have periods of ___ days where she will feel better but 
they do not last. About two weeks ago the patient climbed a 
ladder, hung a belt over it and tightened the belt around her 
neck, then decided not to go through with it. At that time she 
told her psychiatrist that she was having suicidal thoughts but 
did not endorse any intent or plan. At that time the patient's 
psychiatrist increased her dose of celexa to 20 mg daily.
.
Last week the patient's Mom and Aunt came to town to offer her 
support while she was studying for a dental board exam. Three 
days before presenting, the patient again climbed up the ladder, 
tightened the belt around her neck, and began to feel like she 
was going to faint. The patient said that she had not eaten all 
day. She had thought things through so her roommate would be the 
one who found her but then her Mom and Aunt would be in town to 
take care of everything. She had thought about doing this the 
previous ___ but found herself unable to get out of bed. 
After her second suicide attempt the patient called her father 
who told her to go to her mother's hotel. The patient then spent 
the weekend with her mother and on ___, the day of 
presentation, saw her psychiatrist. The patient said her mother 
hoped that she could be monitored as an outpatient. The 
patient's psychiatrist then told her to that she required an 
inpatient level of care and sent her to the emergency room. On 
psychiatric review of systems, the patient describes feeling 
depressed for the past ___ weeks. She reports disrupted sleep, 
decreased appetite, decreased motivation and decreased enjoyment 
of activities, including crocheting, listening to music, 
dancing, going out with friends, planning activities, going to 
the park, and kayaking. She also notes having difficulty 
functioning, including getting out of bed and going to class. 
The patient endorses worsening anxiety and feelings of 
perfectionism, particularly about grades and academic 
performance. The patient denies symptoms consistent with mania 
or hypomania including staying up for days at a time and having 
increased energy. The patient denies auditory or visual 
hallucinations, or suicidal or homicidal ideation.
.
Patient denies suicidal thoughts or current plan to kill herself 
while on the unit. 
.
ROS: Heart palpitations. 10-point review of systems otherwise 
negative.
 
Past Medical History:
Past psychiatric history:
Hospitalizations: Denies
Current treaters and treatment: Dr. ___ and ECT trials: Citalopram
Self-injury: None prior to the 2 hanging attempts as mentioned 
in HPI
Harm to others: Denies
Access to weapons: Denies Access to guns
   
Past medical history: 
Acne

Medications: 
Citalopram 20 mg daily
Spironolactone
   
Allergies: 
NKDA

 
Social History:
Substance use history: 
EtOH: Drinks socially, sometimes to the point of bingeing, 
denies frequent use, denies symptoms of withdrawal
Tobacco: Denies
Other drugs: Denies

Forensic history: ___
Personal and Social History: ___
Family History:
Aunt: Possibly depression
___ any family history of suicide attempts 
 
Physical Exam:
General: ___ year old woman with long, dark-blond hair and blue 
eyes. Well groomed, wearing a hospital gown. HEENT: 
Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear. Neck: 
Supple. Back: No significant deformity. Lungs: CTA ___. No 
crackles, wheezes, or rhonchi. CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly. Extremities: No clubbing, cyanosis, or edema. 
Skin: No rashes, abrasions, scars, or lesions. 

Neurological: pupils symmetry and responsiveness to light and 
accommodation: PERRLA visual fields: full to confrontation EOM: 
full facial symmetry on eye closure and smile: symmetric hearing 
bilaterally to voice: normal phonation: normal head turning and 
shoulder shrug: intact tongue: midline Motor: muscle bulk and 
tone normal, strength is full bilaterally Reflexes: DTRs 1+ at 
knees Sensation: intact to light touch in all 4 extremities 
Coordination: intact Gait: normal posture, normal gait

Cognition: 
Wakefulness/alertness: awake and alert
Attention: Recites MOYB fluently 
Orientation: Oriented to hospital, to ___ 
Registers and recalls ___ words: "Purple," "duck," "curiosity" 
Fund of knowledge: Knows ___ is the President
Calculations: 7 quarters in $1.75 
Abstraction: Apples and oranges are both fruit 
Speech: normal rate, slightly soft volume, and tone 
Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status: 
Appearance: ___ year old woman with long, dark-blond hair and 
blue eyes. Well groomed, wearing a hospital gown. 
Behavior: Calm, cooperative, engaged, makes eye contact, some 
mild psychomotor slowing. Mood and Affect: Mood is "I don't 
know." 
Affect is restricted, dysphoric, often tearful. 
Thought Process: Relatively linear, although it is difficult to 
obtain a linear narrative. No loose associations. 
Thought Content: denies current SI/HI/AH/VH, no evidence of 
delusions or paranoia 
Judgment and Insight: Judgement: Limited. Patient is 
help-seeking.
 Insight: Fair. Patient says she knows she needs more help than 
she has been getting.
 
Pertinent Results:
___ 02:02PM BLOOD WBC-6.7 RBC-4.23 Hgb-12.9 Hct-38.9 MCV-92 
MCH-30.5 MCHC-33.2 RDW-11.6 RDWSD-39.0 Plt ___
___ 02:02PM BLOOD Glucose-110* UreaN-10 Creat-0.8 Na-142 
K-4.5 Cl-104 HCO3-28 AnGap-10
___ 02:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 02:20PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#)  Major Depressive Disorder, Recurrent, Severe and Unspecified 
Anxiety disorder
On admission, patient reported neurovegetative symptoms 
including anhedonia, depressed mood, feeling helpless and 
hopeless, low self worth, fatigue, insomnia, and intrusive 
suicidal thoughts. Patient also described becoming anxious upon 
waking in the morning,  throughout the day, and in social 
settings. Presentation is consistent with major depressive 
disorder, recurrent and severe. Patient has a history of a major 
depressive episode with suicidal ideation around the transition 
from high school to college. Recently, patient has experienced 
multiple neuro-vegetative  as described above. Additionally, 
patient exhibited symptoms of anxiety, especially related to 
social interactions, consistent with an underlying, unspecified 
anxiety disorder. 
.
Patient had been taking Citalopram 20mg PO daily prior to 
admission. Initially this was continued, however,  on ___, 
patient was switched from Celexa 20mg to Lexapro 10mg PO daily 
due to patient's concern for Xerostomia, and Uptodate noting 
that 20% of patients who take Celexa experience Xerostomia while 
only 4-9% of patient who take Lexapro report this side effect. 
Patient tolerated Lexapro without reported side effects. She 
reported persistent difficulty with sleep onset; offered trial 
of trazodone which patient tolerated. Also offered lorazepam 
0.5mg BID PRN anxiety and/or insomnia. Discussed using this 
medication short-term until SSRI reaches full efficacy.
.
Patient adapted well to inpatient unit and has clearly put 
effort into finding ways to maintain improved mood and to 
decrease her anxiety (i.e making routines, attending groups, 
reading psychologically minded articles. Her affect appeared 
brighter in the days following admission; she remained 
consistently future oriented and denied ongoing suicidal 
ideation. She engaged in a meaningful conversation with 
treatment team about events/details prior to suicide attempts. 
Although she was no longer suicidal, she expressed appropriate 
anxiety about deterioration of mood or return of suicidal 
thinking in the future. However, patient was receptive to 
teaching/introduction of coping skills and safety planning.
.
On day of discharge, patient exhibited mood congruent euthymic 
affect, linear thought process and voiced future oriented 
thought content devoid of suicidal ideation or thoughts/urges to 
engage in self-harm. She was looking forward to participating in 
the partial hospital program, as well as begin individual 
therapy.
.
3. SUBSTANCE USE DISORDERS:
#) No ongoing or history of substance use disorders. 
.
4. MEDICAL
#) Acne - Patient was continued on home spironolactone 50mg PO 
daily. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was pleasant and 
appropriate in the milieu.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Patient's mother was involved in ___ hospital course and 
treatment plan. The primary team met with patient and her mother 
early in the admission to discuss diagnostics, medication 
management and expectations of the hospital course and aftercare 
planning. 
.
Spoke with ___ at ___ 
___ - ___ (confirmed that patient's admission to 
___ would remain confidential and not communicated to 
administration); Ms. ___ provided referral recommendations 
for ongoing therapy in ___ area. 
.
#) INTERVENTIONS
- Medications: Lexapro
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: see discharge 
worksheet/appointments listed below
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon her 
recent, high lethality, aborted  suicide attempt.  Her static 
factors noted at that time include history of suicide attempts, 
Caucasian race, age, and single relationship status.  The 
modifiable risk factors including suicidal ideation with plan 
and intent, hopelessness, social withdrawal, insomnia, and 
recent relationship loss were also addressed at that time with 
individual, group, and milieu therapy, medication adjustments, 
and aftercare planning.  Finally, the patient is being 
discharged with many protective risk factors, including help 
seeking nature, future oriented viewpoint, sense of 
responsibility to family, good problem solving skills, lack of 
suicidal ideation, no history of substance abuse, no history of 
abuse, established outpatient providers and strong family 
supports. Patient also demonstrated preserved capacity to engage 
in a meaningful conversation about safety planning and what she 
would do in the event of worsening depressive symptoms or return 
of suicidal ideation (e.g. patient would contact her therapist, 
her mother, call ___ or emergency services, or present to the 
ED).  Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness.
 
Medications on Admission:
1. Citalopram 20 mg PO DAILY 
2. Spironolactone 50 mg PO DAILY 

 
Discharge Medications:
1.  Escitalopram Oxalate 20 mg PO DAILY  
2.  LORazepam 0.5 mg PO BID:PRN anxiety  
3.  TraZODone 50 mg PO QHS  
4.  Spironolactone 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___